US06613760B1
Ethyl N-(3,4-dichlorobenzyl)-5-hydroxyindole-2-carboxylate
Sodium ethoxide (1.86 g) was added to a stirred solution of ethyl 5-acetoxy-N-(3,4-dichlorobenzyl)indole-2-carboxylate (5.55 g) in ethanol (50 ml) under an atmosphere of argon. The reaction was stirred at room temperature for 2 hours, then concentrated in vacuo and the residue acidified with aqueous hydrochloric acid (2.0 M) and extracted with dichloromethane. Combined organic extracts were washed with water, saturated aqueous sodium chloride solution and dried (MgSO4). The solvent was removed in vacuo and the residue was triturated with hexane/diethyl ether to give the product as a white solid (3.17 g, 92%); NMR δ(CD3SOCD3) 1.26 (t, 3H), 4.25 (q, 2H), 5.75 (s, 2H), 6.81-6.91 (m, 2H), 6.98 (d, 1H), 7.19 (s, 1H), 7.29 (d, 1H), 7.38 (d, 1H), 7.50 (d, 1H), 9.06 (s, 1H); M/z (+) 364 (MH+).

reactant | Sodium ethoxide | 1.86 g | [O-]CC.[Na+]
reactant | ethyl 5-acetoxy-N-(3,4-dichlorobenzyl)indole-2-carboxylate | 5.55 g | C(C)(=O)OC=1C=C2C=C(N(C2=CC1)CC1=CC(=C(C=C1)Cl)Cl)C(=O)OCC | C20H17Cl2NO4
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl N-(3,4-dichlorobenzyl)-5-hydroxyindole-2-carboxylate | 3.17 g, 92% | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)O)C(=O)OCC)C=CC1Cl | C18H15Cl2NO3
